*****************************************************************
* INFINEON Power Transistors                                    *
* Level-1 / 3 PSPICE Library for small signal transistors       *
* Version 17102016                                              *
*                                                               *
*                                                               *
* Models provided by Infineon are not warranted by Infineon as  *
* fully representing all the specifications and operating       *
* characteristics of the semiconductor product to which the     *
* model relates. The models describe the characteristics of     *
* typical devices.                                              *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Although models can be a useful tool in evaluating device     *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. INFINEON therefore does not  *
* assume any liability arising from their use.                  *
* INFINEON reserves the right to change models without prior    *
* notice.                                                       *
*                                                               *
*****************************************************************
*                                                               *
*   BSP92P         (p-channel, 250 V enhancement)               * 
*   BSR92P         (p-channel, 250 V enhancement)               * 
*   BSS192P        (p-channel, 250 V enhancement)               *
*   BSP317P        (p-channel, 250 V enhancement)               *
*                                                               *    
*****************************************************************


.SUBCKT K_250p_l_var dd g s Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 heat=1
             
.PARAM  Wcml=0.487   c=0.355     Vth0=1.6     auth=2.4m    nb=1.7       
.PARAM  aubr=270m    lnBr=-23    Ubr=300      UTnbr=207m 

.PARAM  Rd=5         nmu=2.1     Tref=298     T0=273       lnIsj=-25.05
.PARAM  ndi=1.2      Rdi=130m    nmu2=0       ta=40n       td=10n
.PARAM  Rf=0         ph0=31.7    ph1=53m      rpa=0

.PARAM  f1=150p      f2=57p      f3=115p      f4=100p     f5=180p
.PARAM  U0=500m      nd=0.45     nc=0.5       g1=15       bb=0
.PARAM  sl=500p      kbq=85.8u
       
.PARAM  Vmin=1.1     Vmax=2.1    dCmax=0.35
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  p0={Wcml*((T0/Tref)**nb)*a}
.PARAM  Rlim={(Rmax-Rp-Rs-(Unn-Vth0-Inn*Rs-SQRT((Unn-Vth0-Inn*Rs)**2-4*c*Inn/p0))/(2*c*Inn))/(1+rpa*(Inn/a)**2)}  
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a,0),0)} 
.PARAM  bmin={c/Inn/(Rs**2-(2*Rs-1/gmin)/gmin)*(Tref/T0)**nb}
.PARAM  bet={Wcml+if(dR==0,if(dVth==0,(Wcml-bmin/a)*(limit(dgfs,-1,0)),0),0)}
.PARAM  dC1={1+dCmax*limit(dC,0,1)} 

.PARAM  Cox={f1*a*dC1}
.PARAM  Cds0={f2*a*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  Cox1={f5*a*dC1}
.PARAM  Cox2={2p*SQRT(a)*dC1}
.PARAM  dRdi={Rdi/a}

.FUNC I2(p,Uee,z1,pp) {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp-(min(0,Uee))**2)/p))}
.FUNC Ig(Uds,T,p,Uee) {bet*(T0/T)**nb*I2(p,Uee,min(Uds,Uee/(2*c)),min(2*p,p+c*Uds))}
.FUNC Iges(Uds,Ugs,T) 
 +{a*(sgn(Uds)*Ig(abs(Uds),T,1/(ph0-ph1*T),Ugs-Vth+auth*(T-Tref))+exp(min(lnBr+(abs(Uds)-UBr-aubr*(T-Tref))/UTnbr,25)))}

.FUNC Isjt(Tj)           {exp(min(lnIsj+(Tj/Tref-1)*1.12/(ndi*kbq*Tj),9))*(Tj/Tref)**1.5}
.FUNC Idiode(Usd,Tj,Iss) {exp(min(log(Iss)+Usd/(ndi*kbq*Tj),9))-Iss}
.FUNC Idiod(Usd,Tj)      {a*Idiode(Usd,Tj,Isjt(Tj))}

.FUNC QCdg(x,z)  {if(f4>f5,(f5**2-(f4-z*sl)**2)/(2*sl)+f5*min(x,(f4-f5)/sl),f4*z-sl*z**2/2-f5*max((f4-f5)/sl-x,0))}

E_Edg     ox  d   VALUE {V(g,d)-(min(V(g,d),-bb)+1/(g1*(1-nc))*((1/(1+g1*max(V(g,d)+bb,0)))**(nc-1)-1))}
C_Cdg     ox  g   {Cox}
E_Edg1    ox1 d   VALUE {V(g,d)-QCdg(V(g,d),limit(V(g,d),(f4-f5)/sl,f4/sl))/f5}
C_Cdg1    ox1 g   {Cox1}
C_Cdg2    d   g   {Cox2}

E_Eds     edep d  VALUE {V(s,d)-1/(1-nd)*((U0**nd*(limit(U0+V(s,d),0,2*UBr))**(1-nd))-U0)}
C_Cds  edep    s  {Cds0}

C_Cgs     g    s  {Cgs0}

G_chan    s    d  VALUE={Iges(V(s,d),V(s,g),T0+limit(V(Tj),-200,350))+LIMIT(I(V_sense3),-1k,1k)}
E_RMos   d1    d  VALUE={I(V_sense)*(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)*(1+rpa*(I(V_sense)/a)**2)}
V_sense  dd   d1  0
G_diode  d2    s  VALUE={Idiod(V(d2,s),T0+limit(V(Tj),-200,499))}
R_Rdio   d2   d3  {dRdi}
V_sense2 d1   d3  0

C_C001    a    0  {ta*td/(ta+td)}
R_R001    a    b  1
V_sense3  b    c  0
E_E001    c    0  VALUE {ta/td*I(V_sense2)}

R1        g    s  1G
Rd01      d    s  500Meg
Rd02     d2    s  500Meg
Rd03     d1    d  1k

G_TH      0    Tj  VALUE = {heat*LIMIT(I(V_sense)*V(dd,s),0,100k)}

.ENDS
*$

*****************************************************************************************************

.SUBCKT BSP92P drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=100m      Rg=65       Rd=230u      Ls=3n       Ld=1n        Lg=3n
.PARAM Inn=260m     Unn=10      Rmax=12      gmin=250m
.PARAM act=0.67

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn}  
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} heat=1
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              173m
Rth2  t1      t2              210m
Rth3  t2      t3              1.18
Rth4  t3      t4              9.13
Rth5  t4      Tcase           8.3
Cth1  Tj      0               25.3u
Cth2  t1      0               11.8u
Cth3  t2      0               37.4u
Cth4  t3      0               230u
Cth5  t4      0               9.5m

.ENDS
*$

**********


.SUBCKT BSR92P drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=147m      Rg=65       Rd=230u      Ls=3n       Ld=1n        Lg=3n
.PARAM Inn=260m     Unn=10      Rmax=12      gmin=250m
.PARAM act=0.67

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn}  
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} heat=1
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              48.98m
Rth2  t1      t2              458.37m
Rth3  t2      t3              2.43
Rth4  t3      t4              42.8
Rth5  t4      Tcase           30.3
Cth1  Tj      0               9.328u
Cth2  t1      0               24.87u
Cth3  t2      0               98.584u
Cth4  t3      0               1.17m
Cth5  t4      0               9.19m


.ENDS

**********

.SUBCKT BSS192P drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=80m       Rg=65       Rd=350u      Ls=3n       Ld=1n        Lg=3n
.PARAM Inn=190m     Unn=10      Rmax=12      gmin=200m
.PARAM act=0.67

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn}
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} heat=1
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              106m
Rth2  t1      t2              433m
Rth3  t2      t3              1.72
Rth4  t3      t4              234m
Rth5  t4      Tcase           727m
Cth1  Tj      0               24.2u
Cth2  t1      0               15u
Cth3  t2      0               79u
Cth4  t3      0               681u
Cth5  t4      0               500u

.ENDS




**********

.SUBCKT BSP317P drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=120m      Rg=105       Rd=230u      Ls=3n       Ld=1n        Lg=3n
.PARAM Inn=430m     Unn=10       Rmax=4.4     gmin=540m
.PARAM act=1.83

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn}  
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} heat=1
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              64m
Rth2  t1      t2              78m
Rth3  t2      t3              1.28
Rth4  t3      t4              4.26
Rth5  t4      Tcase           6.55
Cth1  Tj      0               69u
Cth2  t1      0               32u
Cth3  t2      0               237u
Cth4  t3      0               732u
Cth5  t4      0               14.8m

.ENDS


**********


.SUBCKT BSP92P_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=0 Ld=0 Lg=0

.PARAM Rs=147.82m   Rg=65        Rd=230u      
.PARAM Inn=0.26     Unn=10       Rmax=12      gmin=250m
.PARAM act=0.67

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} 
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS

**********

.SUBCKT BSR92P_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=0 Ld=0 Lg=0

.PARAM Rs=147.82m   Rg=65        Rd=230u      
.PARAM Inn=0.26     Unn=10       Rmax=12      gmin=250m
.PARAM act=0.67

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} 
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS

**********

.SUBCKT BSS192P_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=0 Ld=0 Lg=0

.PARAM Rs=147.82m   Rg=65        Rd=350u      
.PARAM Inn=0.19     Unn=10       Rmax=12      gmin=250m
.PARAM act=0.67

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS

**********

.SUBCKT BSP317P_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Ls=0 Ld=0 Lg=0

.PARAM Rs=147.82m   Rg=105       Rd=230u      
.PARAM Inn=0.43     Unn=10       Rmax=4       gmin=540m
.PARAM act=1.83

X1  d1 g s Tj K_250p_l_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC}
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Rda   d1     d2   {Rd}
Ld    drain  d2   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS

************************************************************************************************************

.SUBCKT BSP92P_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.1

Rg     g1    g2     65
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS PMOS ( KP= 0.804  VTO=-1.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    7.46 TC=9m
.MODEL MVDR PMOS (KP=7.71 VTO=1.4   LAMBDA=0.1)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     d2    s2    Dbt
.MODEL     Dbt    D(BV=300   M=0.38  CJO=38.19p  VJ=0.5V)
Dbody   21   s2    DBODY
.MODEL DBODY  D(IS=10.1p  N=1.2  RS=199u  EG=1.12  TT=200n)
Rdiode  d1  21    194.03m TC=3m

.MODEL   sw    PMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   222.44p
.MODEL     DGD    D(M=0.9   CJO=222.44p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       d2    a   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    77.05p

.ENDS  BSP92P_L0

******

.SUBCKT BSR92P_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.1

Rg     g1    g2     65
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS PMOS ( KP= 0.804  VTO=-1.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    7.46 TC=9m
.MODEL MVDR PMOS (KP=7.71 VTO=1.4   LAMBDA=0.1)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     d2    s2    Dbt
.MODEL     Dbt    D(BV=300   M=0.38  CJO=38.19p  VJ=0.5V)
Dbody   21   s2    DBODY
.MODEL DBODY  D(IS=10.1p  N=1.2  RS=199u  EG=1.12  TT=200n)
Rdiode  d1  21    194.03m TC=3m

.MODEL   sw    PMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   222.44p
.MODEL     DGD    D(M=0.9   CJO=222.44p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       d2    a   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    77.05p

.ENDS  BSR92P_L0

******

.SUBCKT BSS192P_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.08

Rg     g1    g2     65
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS PMOS ( KP= 0.804  VTO=-1.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    7.46 TC=9m
.MODEL MVDR PMOS (KP=7.71 VTO=1.4   LAMBDA=0.1)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     d2    s2    Dbt
.MODEL     Dbt    D(BV=300   M=0.38  CJO=38.19p  VJ=0.5V)
Dbody   21   s2    DBODY
.MODEL DBODY  D(IS=10.1p  N=1.2  RS=199u  EG=1.12  TT=200n)
Rdiode  d1  21    194.03m TC=3m

.MODEL   sw    PMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   222.44p
.MODEL     DGD    D(M=0.9   CJO=222.44p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       d2    a   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    77.05p

.ENDS  BSS192P_L0

******

.SUBCKT BSP317P_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.12

Rg     g1    g2     105
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS PMOS ( KP= 2.196  VTO=-1.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    2.73 TC=9m
.MODEL MVDR PMOS (KP=21.05 VTO=1.4   LAMBDA=0.1)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     d2    s2    Dbt
.MODEL     Dbt    D(BV=300   M=0.38  CJO=104.31p  VJ=0.5V)
Dbody   21   s2    DBODY
.MODEL DBODY  D(IS=27.5p  N=1.2  RS=73u  EG=1.12  TT=200n)
Rdiode  d1  21    71.04m TC=3m

.MODEL   sw    PMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   607.56p
.MODEL     DGD    D(M=0.9   CJO=607.56p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       d2    a   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    210.45p

.ENDS  BSP317P_L0


******


